US04750931
B. 4-Benzyloxy-3,5-difluorobromobenzene
A stirred mixture of 4-bromo-2,6-difluorophenol (36 g, 0.172 mole), benzylchloride (21.77 g, 0.172 mole), and potassium carbonate (25 g, 0.18 mole) in demethylformamide (300 ml) was heated at 80°-90° for four hours. After cooling, the solvent was evaporated and ether added to the residue. The insoluble inorganic salts were removed by filtration, and solvent evaporated from the filtrate. The oily residue was subjected to bulb-to-bulb vacuum distillation on Kugelrohr apparatus to give the desired product as a nearly colorless oil (41 g, 80 percent): R.I.=1.5602 @ 25° C.; NMR (CDCl3) was consistent with the assigned structure.

reactant | 4-bromo-2,6-difluorophenol | 0.172 mole, 36 g | BrC1=CC(=C(C(=C1)F)O)F | C6H3BrF2O
reactant | benzylchloride | 0.172 mole, 21.77 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium carbonate | 0.18 mole, 25 g | C([O-])([O-])=O.[K+].[K+]
product | 4-Benzyloxy-3,5-difluorobromobenzene | C(C1=CC=CC=C1)OC1=C(C=C(C=C1F)Br)F | C13H9BrF2O
